US05034417
Benzyl chloride (1.92 ml) was added dropwise to a mixture of magnesium (357 mg) in tetrahydrofuran (15 ml) at 40° C. The mixture was stirred at room temperature for 40 minutes. To the resulting solution was added a solution of 4'-cyano-2'-(2,4-difluorophenylthio)methanesulfonanilide (1 g) in tetrahydrofuran (15 ml) dropwise at room temperature. The reaction mixture was stirred for 1 hour and hydrolyzed with cold ammonium chloride solution. Ethyl acetate (30 ml) and water (30 ml) were added. The organic layer was separated, shaken with diluted hydrochloric acid, dried, and evaporated. The residual oil (2.2 g) was purified by column chromatography on silica gel (40 g) eluting with a mixture of toluene and ethyl acetate (40:1) followed by recrystallization from ethanol to give pale brown crystals of 2'-(2,4-difluorophenylthio)-4'-(phenylacetyl)methanesulfonanilide (0.52 g).

reactant | Benzyl chloride | 1.92 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | magnesium | 357 mg | [Mg] | Mg
reactant | 4'-cyano-2'-(2,4-difluorophenylthio)methanesulfonanilide | 1 g | C(#N)C1=CC(=C(NS(=O)(=O)C)C=C1)SC1=C(C=C(C=C1)F)F | C14H10F2N2O2S2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | water | 30 ml | O | H2O
solvent | Ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 2'-(2,4-difluorophenylthio)-4'-(phenylacetyl)methanesulfonanilide | 0.52 g | FC1=C(C=CC(=C1)F)SC1=C(NS(=O)(=O)C)C=CC(=C1)C(CC1=CC=CC=C1)=O | C21H17F2NO3S2
